US03997536
6.0 G. of 4-chloro-5-cyano-2-(4-n-pentyloxyphenyl)-pyrimidine are reacted in 260 ml. of 50% dioxane with 23.0 g. of pre-treated zinc dust and worked up after the reaction in a manner analogous to that described in Example 13. There is obtained 5-cyano-2-(4-n-pentyloxyphenyl)-pyrimidine as colorless crystals having a melting point of 98.0°-98.1° C. (smectic); nematic at 102.1° C; clearing point 133.2° C.

reactant | 4-chloro-5-cyano-2-(4-n-pentyloxyphenyl)-pyrimidine | ClC1=NC(=NC=C1C#N)C1=CC=C(C=C1)OCCCCC | C16H16ClN3O
catalyst | zinc | [Zn] | Zn
solvent | dioxane | O1CCOCC1 | C4H8O2
product | 5-cyano-2-(4-n-pentyloxyphenyl)-pyrimidine | C(#N)C=1C=NC(=NC1)C1=CC=C(C=C1)OCCCCC | C16H17N3O
